US06107253
5-Amino-4-cyano-1-(3,6-dichloro-5-trifluoromethyl-2-pyridyl)pyrazole
24.6 g (0.1 mol) of 3,6-dichloro-2-hydrazino-5-trifluoromethylpyridine were added to a mixture of 12.2 g (0.1 mol) of ethoxymethylenemalononitrile and 200 ml of ethanol with stirring at 20° C. and it was stirred at 78° C. for 10 hours. After cooling, the reaction mixture was concentrated under reduced pressure and the residue was taken up in methylene chloride. It was extracted 3× with water and the organic phase separated off was dried over magnesium sulfate, filtered off with suction through neutral alumina and then concentrated under reduced pressure. After stirring in ether/pentane, 13.3 g (41.3% of theory) of the title compound of m.p. 168-171° C. were obtained (Active Compound Example No. 2a.002).

reactant | 3,6-dichloro-2-hydrazino-5-trifluoromethylpyridine | 0.1 mol, 24.6 g | ClC=1C(=NC(=C(C1)C(F)(F)F)Cl)NN | C6H4Cl2F3N3
reactant | ethoxymethylenemalononitrile | 0.1 mol, 12.2 g | C(C)OC=C(C#N)C#N | C6H6N2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-Amino-4-cyano-1-(3,6-dichloro-5-trifluoromethyl-2-pyridyl)pyrazole | NC1=C(C=NN1C1=NC(=C(C=C1Cl)C(F)(F)F)Cl)C#N | C10H4Cl2F3N5
